datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCCC[NH:10]CC(=O)[O-].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCCC[NH+:10](CC(=O)[O-])[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"Cc1ccc(C)c(C(=O)C(=O)[O:21][H:20])c1.Cc1ccc([Se](=O)[O-:10])cc1>>Cc1ccc(C)c(C(=O)C(=O)[O-:21])c1.Cc1ccc([Se](=O)[O:10][H:20])cc1 10=20;20,21=21",
"Cc1ccc(-c2c[n:10]c(-c3ccc(Br)cc3)o2)cc1.[NH3+]C(Cc1nc[nH]n1)C(=O)[O:21][H:20]>>Cc1ccc(-c2c[n+:10]([H:20])c(-c3ccc(Br)cc3)o2)cc1.[NH3+]C(Cc1nc[nH]n1)C(=O)[O-:21] 10=20;20,21=21",
"CC(C)(C)c1ccc(C(O)CCC[N+:21]2([H:20])CCC(C(O)(c3ccccc3)c3ccccc3)CC2)cc1.CN(C)c1cc[n:10]cn1>>CC(C)(C)c1ccc(C(O)CCC[N:21]2CCC(C(O)(c3ccccc3)c3ccccc3)CC2)cc1.CN(C)c1cc[n+:10]([H:20])cn1 10=20;20,21=21",
"CNC(=O)/C=C\C(=O)[O:21][H:20].Clc1cc(Cl)c([O-:10])c(C[NH+]2CCOCC2)c1>>CNC(=O)/C=C\C(=O)[O-:21].Clc1cc(Cl)c([O:10][H:20])c(C[NH+]2CCOCC2)c1 10=20;20,21=21",
"Cn1c[n+:21]([H:20])c(C(=O)[O-])c1C(=O)[O-].N#CC1C[N:10]2CCC1CC2>>Cn1c[n:21]c(C(=O)[O-])c1C(=O)[O-].N#CC1C[N+:10]2([H:20])CCC1CC2 10=20;20,21=21",
"COc1cc(C)n(-c2ccccc2)[n+:21]1[H:20].COc1ccc([O-:10])c(N)c1>>COc1cc(C)n(-c2ccccc2)[n:21]1.COc1ccc([O:10][H:20])c(N)c1 10=20;20,21=21",
"CC[NH+](CC)CCC[N+:21](CC)(CC)[H:20].Nc1[nH][n:10]c(N)c1/N=N/c1ccccc1>>CC[NH+](CC)CCC[N:21](CC)CC.Nc1[nH][n+:10]([H:20])c(N)c1/N=N/c1ccccc1 10=20;20,21=21",
"O=C([O-])c1cc2ccccc2[n+:21]([H:20])c1.c1ccc(CCN[NH2:10])cc1>>O=C([O-])c1cc2ccccc2[n:21]c1.c1ccc(CCN[NH2+:10][H:20])cc1 10=20;20,21=21",
"CC(CCc1ccc(O)cc1)[NH2:10].O=C1C=CC([O:21][H:20])=CC=C1[O-]>>CC(CCc1ccc(O)cc1)[NH2+:10][H:20].O=C1C=CC([O-:21])=CC=C1[O-] 10=20;20,21=21",
"CC(C)Oc1ccc(C(=O)[O-:10])cc1.Nc1c2c(nc[n+]1[O-])nc[n:21]2[H:20]>>CC(C)Oc1ccc(C(=O)[O:10][H:20])cc1.Nc1c2c(nc[n+]1[O-])nc[n-:21]2 10=20;20,21=21",
"C1C[NH2+]CC[NH+:21]([H:20])CCN1.CC(C#N)(CC(=O)[O-:10])c1ccccc1>>C1C[NH2+]CC[NH:21]CCN1.CC(C#N)(CC(=O)[O:10][H:20])c1ccccc1 10=20;20,21=21",
"CCn1c[n+:21]([H:20])cn1.COc1cc(S(C)=O)ccc1-c1nc2[nH]ncc2[n-:10]1>>CCn1c[n:21]cn1.COc1cc(S(C)=O)ccc1-c1nc2[nH]ncc2[n:10]1[H:20] 10=20;20,21=21",
"CCCCC[N:10](CC(O)CC)CC(O)CC.O=C(c1cccc([N+](=O)[O-])c1O)[O:21][H:20]>>CCCCC[N+:10](CC(O)CC)(CC(O)CC)[H:20].O=C(c1cccc([N+](=O)[O-])c1O)[O-:21] 10=20;20,21=21",
"C(=N/c1ncc2nc[nH]c2n1)\c1ccc([O-:10])cc1.O=C([O-])c1ccccc1[NH2+:21][H:20]>>C(=N/c1ncc2nc[nH]c2n1)\c1ccc([O:10][H:20])cc1.O=C([O-])c1ccccc1[NH2:21] 10=20;20,21=21",
"CN(C)c1nc2ncncc2[n-:10]1.O=C1n2nnnc2C=C[N:21]1[H:20]>>CN(C)c1nc2ncncc2[n:10]1[H:20].O=C1n2nnnc2C=C[N-:21]1 10=20;20,21=21",
"Cc1cc[n+:21]([H:20])c2ccccc12.c1c[nH+]c2ccc([NH2:10])cc2c1>>Cc1cc[n:21]c2ccccc12.c1c[nH+]c2ccc([NH2+:10][H:20])cc2c1 10=20;20,21=21",
"Nc1ccc(B(O)[O:21][H:20])c([N+](=O)[O-])c1.O=C([O-])CCC(C(=O)[O-])[NH2:10]>>Nc1ccc(B(O)[O-:21])c([N+](=O)[O-])c1.O=C([O-])CCC(C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"C[Si](C)(CCCCl)CCCC(=O)[O-:10].Oc1cccc2ccc[n+:21]([H:20])c12>>C[Si](C)(CCCCl)CCCC(=O)[O:10][H:20].Oc1cccc2ccc[n:21]c12 10=20;20,21=21",
"CCCC[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)[H:20])C=C1>>CCCC[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)C=C1 10=20;20,21=21",
"COC(=O)c1ccc([NH2:10])cc1.COc1c(C=O)c(CO)c[n+:21]([H:20])c1C>>COC(=O)c1ccc([NH2+:10][H:20])cc1.COc1c(C=O)c(CO)c[n:21]c1C 10=20;20,21=21",
"CC[NH:10]CC(=O)Nc1c(C)cccc1C.C[C@@H]1CC[C@H](C)[C@@H]1C(=O)[O:21][H:20]>>CC[NH+:10](CC(=O)Nc1c(C)cccc1C)[H:20].C[C@@H]1CC[C@H](C)[C@@H]1C(=O)[O-:21] 10=20;20,21=21",
"CC1(C(=O)[O-:10])CCCCC1.CCN(CC)c1sc(-c2ccccc2)n[n+:21]1[H:20]>>CC1(C(=O)[O:10][H:20])CCCCC1.CCN(CC)c1sc(-c2ccccc2)n[n:21]1 10=20;20,21=21",
"CN(C)C(N(C)C)=[N:10]C.Cc1noc([N:21](S(=O)(=O)c2ccc(N)cc2)[H:20])c1C>>CN(C)C(N(C)C)=[N+:10](C)[H:20].Cc1noc([N-:21]S(=O)(=O)c2ccc(N)cc2)c1C 10=20;20,21=21",
"C=C[C@]1(O)C[NH+]2CC[C@H]1C[C@@H]2[C@@H](O)c1cc[n+:21]([H:20])c2ccc(OC)cc12.CC([NH3+])C[NH2:10]>>C=C[C@]1(O)C[NH+]2CC[C@H]1C[C@@H]2[C@@H](O)c1cc[n:21]c2ccc(OC)cc12.CC([NH3+])C[NH2+:10][H:20] 10=20;20,21=21",
"O=C([O-])/C=C\C[NH2+:21][H:20].O=S1(=O)C=C([O-:10])c2ccccc21>>O=C([O-])/C=C\C[NH2:21].O=S1(=O)C=C([O:10][H:20])c2ccccc21 10=20;20,21=21",
"C/S(C(C)(C)C)=[O+:21]\[H:20].COc1cc(C[NH2:10])ccc1O>>COc1cc(C[NH2+:10][H:20])ccc1O.CS(C(C)(C)C)=[O:21] 10=20;20,21=21",
"CC1CC[N+:21](c2cc[nH+]cc2)([H:20])CC1.Oc1cc2cccnc2c2ccc[n:10]c12>>CC1CC[N:21](c2cc[nH+]cc2)CC1.Oc1cc2cccnc2c2ccc[n+:10]([H:20])c12 10=20;20,21=21",
"COC(=O)CSC(C)[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C([N+](=O)[O-])C=C2)[H:20])=C1>>COC(=O)CSC(C)[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C([N+](=O)[O-])C=C2)=C1 10=20;20,21=21",
"COC(=O)C[C@@H]1[C@@H](C(=O)[O-])[NH:10]C[C@H]1C(C)O.O=[N+]([O-])c1cccc2c[n+](CCC[O:21][H:20])ccc12>>COC(=O)C[C@@H]1[C@@H](C(=O)[O-])[NH+:10]([H:20])C[C@H]1C(C)O.O=[N+]([O-])c1cccc2c[n+](CCC[O-:21])ccc12 10=20;20,21=21",
"Cc1ccc2c(c1)c1c(c(C)[n+:21]2[H:20])C(C)C(C)O1.O=C1[C@H]2CCC[C@H]2C(=O)[N-:10]1>>Cc1ccc2c(c1)c1c(c(C)[n:21]2)C(C)C(C)O1.O=C1[C@H]2CCC[C@H]2C(=O)[N:10]1[H:20] 10=20;20,21=21",
